US04994479
To a mixture of 3.9 g of 2-amino-5-mercapto-1,3,4-thiadiazole, 4.2 g of potassium carbonate and 50 ml of ethanol was gradually added 5 g of ethyl bromoacetate under ice cooling. Then, the mixture was stirred at room temperature for 3 hours. To the reaction mixture was added 200 ml of water followed by extraction with ethyl acetate. After washing with water, the extract was dried over anhydrous magenesium sulfate and the solvent was distilled off. The solid obtained was washed with toluene and dried to obtain 2.7 g of ethyl [(5-amino-1,3,4-thiadiazol-2-yl)thio]acetate.

reactant | 2-amino-5-mercapto-1,3,4-thiadiazole | 3.9 g | NC=1SC(=NN1)S | C2H3N3S2
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | ethyl bromoacetate | 5 g | BrCC(=O)OCC | C4H7BrO2
solvent | water | 200 ml | O | H2O
product | ethyl [(5-amino-1,3,4-thiadiazol-2-yl)thio]acetate | 2.7 g | NC1=NN=C(S1)SCC(=O)OCC | C6H9N3O2S2
